US04837333
A mixture of 3-(bromoethyl)benzoic acid, ethyl ester (12.2 g, 0.050 mol) and triphenyl phosphine (13.1 g, 0.05 mol) in toluene (50 ml) was stirred at 70° C. for 16 hours to yield [[3-(ethoxycarbonyl)phenyl]methyl]triphenylphosphonium bromide as a colorless crystalline solid which was filtered off, washed with toluene and dried under vacuum.

reactant | 3-(bromoethyl)benzoic acid, ethyl ester | 0.050 mol, 12.2 g | BrCCC=1C=C(C(=O)OCC)C=CC1 | C11H13BrO2
reactant | triphenyl phosphine | 0.05 mol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | [[3-(ethoxycarbonyl)phenyl]methyl]triphenylphosphonium bromide | [Br-].C(C)OC(=O)C=1C=C(C=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H26O2P.BrH/c1-2-30-28(29)24-14-12-13-23(21-24)22-31(25-15-6-3-7-16-25,26-17-8-4-9-18-26)27-19-10-5-11-20-27;/h3-21H,2,22H2,1H3;1H/q+1;/p-1
